US05221759
A solution containing 294 g (2 mol) of 1,4-dichlorobenzene in 500 ml of anhydrous tetrahydrofuran was added dropwise over a period of about 110 minutes under nitrogen at 80° C. to a stirred suspension containing 48.6 g (2.0 mol) of magnesium turnings. The mixture was subsequently heated for 2 hours at 80°-84° C., then decanted from the excess magnesium, and the resultant solution of the Grignard compound was added dropwise over a period of 30 minutes at 80° C. to a stirred solution containing 194 g (1.8 mol) of 6-bromo-1-hexene (Fluka GmbH, 7910 Neu-Ulm) in 200 ml of tetrahydrofuran. The mixture was then stirred for 4 hours at 80° C. and then poured onto ice. After acidification with hydrochloric acid, the mixture was extracted three times with a 1:1 mixture of diethyl ether/methyl tert-butyl ether, and the ether fractions were stirred thoroughly with activated charcoal and dried over sodium sulfate. The filtrate was evaporated, and the residue was fractionated. At a pressure of 13 hPa and a temperature of 116°-118° C., 156 g (corresponding to a yield of 40% of theory) of 4-(5-hexenyl)-1-chlorobenzene were obtained. 4-(8-Nonenyl)-1-chlorobenzene (b.p. 87° C. at 0.3 hPa), for example, can also be prepared in the same way.

reactant | 1,4-dichlorobenzene | 2 mol, 294 g | ClC1=CC=C(C=C1)Cl | C6H4Cl2
reactant | magnesium | 2.0 mol, 48.6 g | [Mg] | Mg
reactant | 6-bromo-1-hexene | 1.8 mol, 194 g | BrCCCCC=C | C6H11Br
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 4-(5-hexenyl)-1-chlorobenzene | yield of 40% | C(CCCC=C)C1=CC=C(C=C1)Cl | C12H15Cl
